* C:\Users\msaya\Documents\Github\Amplifier\pulse Amplifier.asc
V1 Vsup 0 56
R2 Vsup N011 330 pwr=0.5
D1 Vsup N011 BAT54AHY
M§Q2 Vsup Vsup N014 N014 IRFP9240
M§Q5A N014 N017 N019 N019 BSC340N08NS3
R3 Vsup N001 2.2
R4 Vsup N002 2.2
R5 Vsup N003 2.2
R6 Vsup N004 2.2
R7 Vsup N005 2.2
R8 Vsup N006 2.2
R9 Vsup N007 2.2
R10 Vsup N008 2.2
R11 Vsup N009 2.2
R12 Vsup N010 2.2
C2 N001 N012 0.1 uF
C3 N002 N012 0.1 uF
C4 N003 N012 0.1 uF
C5 N004 N012 0.1 uF
C6 N005 N012 0.1 uF
C7 N006 N012 0.1 uF
C8 N007 N012 0.1 uF
C9 N008 N012 0.1 uF
C10 N009 N012 0.1 uF
C11 N010 N012 0.1 uF
R16 N014 N013 4700 pwr=1
C13 N014 N013 68 pF
D3 0 N013 ES1D
D8 N021 N017 D
R58 N016 N017 220 pwr=0.5
R59 N016 N017 220 pwr=0.5
R22 N016 N017 220 pwr=0.5
R25 N021 N020 4700
R19 N015 0 120
R33 N014 N018 2.2
R20 N013 0 510 pwr=0.5
C18 N018 0 1 nF
Q1 Vsup N011 Vsup 0 BD139
Q4 N011 N020 N015 0 BD139
Q3 N015 N013 Vsup 0 BD139
Q6 N019 N021 0 0 BD139
.model D D
.lib C:\Users\msaya\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\msaya\AppData\Local\LTspice\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\msaya\AppData\Local\LTspice\lib\cmp\standard.mos
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*    Modeling services provided by   *
* Interface Technologies www.i-t.com *
**************************************
.MODEL BD139 npn
+IS=1e-09 BF=222.664 NF=0.85 VAF=36.4079
+IKF=0.166126 ISE=5.03418e-09 NE=1.45313 BR=1.35467
+NR=1.33751 VAR=142.931 IKR=1.66126 ISC=5.02557e-09
+NC=3.10227 RB=26.9143 IRB=0.1 RBM=0.1
+RE=0.000472454 RC=1.04109 XTB=0.727762 XTI=1.04311
+EG=1.05 CJE=1e-11 VJE=0.75 MJE=0.33
+TF=1e-09 XTF=1 VTF=10 ITF=0.01
+CJC=1e-11 VJC=0.75 MJC=0.33 XCJC=0.9
+FC=0.5 CJS=0 VJS=0.75 MJS=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
* Model generated on Feb 14, 2004
* Model format: PSpice
.dc V1 0 20 1m
.backanno
.end
