* C:\Users\msaya\Documents\Github\Amplifier\pulse Amplifier.asc
V1 Vsup 0 56
R2 Vsup N012 330 pwr=0.5
M§Q2 Vsup Vsup Vamp Vamp IRFP9240
M§Q5A Vamp N016 N018 N018 BSC340N08NS3
R3 N001 N002 2.2
R4 N001 N003 2.2
R5 N001 N004 2.2
R6 N001 N005 2.2
R7 N001 N006 2.2
R8 N001 N007 2.2
R9 N001 N008 2.2
R10 N001 N009 2.2
R11 N001 N010 2.2
R12 N001 N011 2.2
C2 N002 N013 0.1µ
C3 N003 N013 0.1µ
C4 N004 N013 0.1µ
C5 N005 N013 0.1µ
C6 N006 N013 0.1µ
C7 N007 N013 0.1µ
C8 N008 N013 0.1µ
C9 N009 N013 0.1µ
C10 N010 N013 0.1µ
C11 N011 N013 0.1µ
R16 Vamp N014 4700 pwr=1
C13 Vamp N014 68p
R58 N015 N016 220 pwr=0.5
R59 N015 N016 220 pwr=0.5
R22 N015 N016 220 pwr=0.5
R25 N019 N012 4700
R19 N012 0 120
R33 Vamp N017 2.2
R20 N014 0 510 pwr=0.5
C18 N017 0 1n
Q1 Vsup N012 Vsup 0 BD139
Q4 NC_01 NC_02 NC_03 0 BD139
Q3 N012 N014 Vsup 0 BD139
Q6 N018 N019 0 0 BD139
D1 Vsup N012 Dbat54xv2t1g
D3 0 N014 DI_ES1C
D6 N019 N016 Dbat54xv2t1g
.model D D
.lib C:\Users\msaya\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\msaya\AppData\Local\LTspice\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\msaya\AppData\Local\LTspice\lib\cmp\standard.mos
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*    Modeling services provided by   *
* Interface Technologies www.i-t.com *
**************************************
.MODEL BD139 npn
+IS=1e-09 BF=222.664 NF=0.85 VAF=36.4079
+IKF=0.166126 ISE=5.03418e-09 NE=1.45313 BR=1.35467
+NR=1.33751 VAR=142.931 IKR=1.66126 ISC=5.02557e-09
+NC=3.10227 RB=26.9143 IRB=0.1 RBM=0.1
+RE=0.000472454 RC=1.04109 XTB=0.727762 XTI=1.04311
+EG=1.05 CJE=1e-11 VJE=0.75 MJE=0.33
+TF=1e-09 XTF=1 VTF=10 ITF=0.01
+CJC=1e-11 VJC=0.75 MJC=0.33 XCJC=0.9
+FC=0.5 CJS=0 VJS=0.75 MJS=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
* Model generated on Feb 14, 2004
* Model format: PSpice
.dc V1 0 20 1m
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Sep 18, 18
* MODEL FORMAT: PSpice
.MODEL Dbat54xv2t1g d
+IS=1.91828e-08 RS=0.708696 N=0.984721 EG=0.705057
+XTI=0.5 BV=37.2 IBV=1e-05 CJO=1.4099e-11
+VJ=0.493605 M=0.459988 FC=0.5 TT=2.59685e-09
+KF=0 AF=1
* DIODES INCORPORATED AND ITS AFFILIATED COMPANIES AND SUBSIDIARIES (COLLECTIVELY, "DIODES")
* PROVIDE THESE SPICE MODELS AND DATA (COLLECTIVELY, THE "SM DATA") "AS IS" AND WITHOUT ANY
* REPRESENTATIONS OR WARRANTIES, EXPRESS OR IMPLIED, INCLUDING ANY WARRANTY OF MERCHANTABILITY
* OR FITNESS FOR A PARTICULAR PURPOSE, ANY WARRANTY ARISING FROM COURSE OF DEALING OR COURSE OF
* PERFORMANCE, OR ANY WARRANTY THAT ACCESS TO OR OPERATION OF THE SM DATA WILL BE UNINTERRUPTED,
* OR THAT THE SM DATA OR ANY SIMULATION USING THE SM DATA WILL BE ERROR FREE. TO THE MAXIMUM
* EXTENT PERMITTED BY LAW, IN NO EVENT WILL DIODES BE LIABLE FOR ANY DIRECT OR INDIRECT,
* SPECIAL, INCIDENTAL, PUNITIVE OR CONSEQUENTIAL DAMAGES ARISING OUT OF OR IN CONNECTION WITH
* THE PRODUCTION OR USE OF SM DATA, HOWEVER CAUSED AND UNDER WHATEVER CAUSE OF ACTION OR THEORY
* OF LIABILITY BROUGHT (INCLUDING, WITHOUT LIMITATION, UNDER ANY CONTRACT, NEGLIGENCE OR OTHER
* TORT THEORY OF LIABILITY), EVEN IF DIODES HAS BEEN ADVISED OF THE POSSIBILITY OF SUCH DAMAGES,
* AND DIODES' TOTAL LIABILITY (WHETHER IN CONTRACT, TORT OR OTHERWISE) WITH REGARD TO THE SM
* DATA WILL NOT, IN THE AGGREGATE, EXCEED ANY SUMS PAID BY YOU TO DIODES FOR THE SM DATA.
*SRC=ES1C;DI_ES1C;Diodes;Si;  150V  1.00A  20.0ns   Diodes Inc.
.MODEL DI_ES1C D  ( IS=123n RS=42.0m BV=150 IBV=5.00u
+ CJO=18.5p  M=0.333 N=2.12 TT=28.8n )
.backanno
.end
